US04259509
(A) Ethyl 2-[2-bromo-4-(2-thenoyl)-phenoxy]-2-methyl-propionate
To a solution of 2-thienyl-(3-bromo-4-hydroxy-phenyl)ketone (14.5 g; M.p.=185° C.) in dimethylsulfoxide (50 ml) is added potassium hydroxide (2.8 g) and the mixture is heated to 50° C. for 30 minutes, after which ethyl α-bromoisobutyrate (9.75 g) is added thereto at room temperature. After a period of time of 3 hours, the solution is poured into water (100 ml) and the aqueous phase is extracted with ethyl ether. The organic phase is washed with an aqueous sodium hydroxide solution, and then with water, and the solvent is evaporated off after drying over sodium sulfate. The final product is recrystallized from petroleum ether (7 g; M.p.=80° C.).

reactant | 2-thienyl-(3-bromo-4-hydroxy-phenyl)ketone | 14.5 g | S1C(=CC=C1)C(=O)C1=CC(=C(C=C1)O)Br | C11H7BrO2S
reactant | potassium hydroxide | 2.8 g | [OH-].[K+]
reactant | ethyl α-bromoisobutyrate | 9.75 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | water | 100 ml | O | H2O
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
product | Ethyl 2-[2-bromo-4-(2-thenoyl)-phenoxy]-2-methyl-propionate | BrC1=C(OC(C(=O)OCC)(C)C)C=CC(=C1)C(C1=CC=CS1)=O | C17H17BrO4S
